* Source: ALIGN-analoglayout/ALIGN-public (Apache License 2.0)
* https://github.com/ALIGN-analoglayout/ALIGN-public/tree/master/examples/five_transistor_ota
.subckt five_transistor_ota vbias vss vdd von vin vip
mn1 tail vbias vss vss nmos_rvt w=270e-9 l=20e-9 nfin=4 nf=2 m=8
mn2 von vin tail vss nmos_rvt w=270e-9 l=20e-9 nfin=4 nf=2 m=16
mn3 vop vip tail vss nmos_rvt w=270e-9 l=20e-9 nfin=4 nf=2 m=16
mp4 von vop vdd vdd pmos_rvt w=270e-9 l=20e-9 nfin=4 nf=2 m=4
mp5 vop vop vdd vdd pmos_rvt w=270e-9 l=20e-9 nfin=4 nf=2 m=4
.ends five_transistor_ota
